US05332731
Preparation of pivaloyloxymethyl 7-[(Z)-2-(2-aminothiazol-4-yl)-2-hydroxyiminoacetamido]-3-(2,2-dimethyl-1,3-dioxan-4-yl)methylthio-3-cephem-4-carboxylate
Sodium 7-[(Z)-2-(2-aminothiazol-4-yl)-2-hydroxyiminoacetamido]-3-(2,2-dimethyl-1,3-dioxan-4-yl)methylthio-3-cephem-4-carboxylate (60 mg) was reacted with iodomethyl pivalate (40 mg),followed by purifying the reaction product in accordance with the procedure of Example 4, yielding the titled compound (42 mg; 60%).

reactant | Sodium 7-[(Z)-2-(2-aminothiazol-4-yl)-2-hydroxyiminoacetamido]-3-(2,2-dimethyl-1,3-dioxan-4-yl)methylthio-3-cephem-4-carboxylate | 60 mg | NC=1SC=C(N1)/C(/C(=O)NC1[C@@H]2N(C(=C(CS2)CC2OC(OCC2)(C)C)C(=S)[O-])C1=O)=N/O.[Na+]
reactant | iodomethyl pivalate | 40 mg | C(C(C)(C)C)(=O)OCI | C6H11IO2
product | pivaloyloxymethyl 7-[(Z)-2-(2-aminothiazol-4-yl)-2-hydroxyiminoacetamido]-3-(2,2-dimethyl-1,3-dioxan-4-yl)methylthio-3-cephem-4-carboxylate | 42 mg, 60% | NC=1SC=C(N1)/C(/C(=O)NC1[C@@H]2N(C(=C(CS2)CC2OC(OCC2)(C)C)C(=S)OCOC(C(C)(C)C)=O)C1=O)=N/O | C25H33N5O8S3
